US04447435
To a solution of 3-acetoxymethyl-1-methyl-4-quinolone (0.8 g.) in acetone (15 ml.) was added a solution of sodium methanesulphinate (0.53 g.) in water (10 ml.). The mixture was boiled under reflux for 24 hours. Further sodium methanesulphinate (0.14 g.) was added and the mixture was boiled under reflux for 4 hours. Acetone was evaporated from the mixture, causing the separation of a white solid which was recrystallised from industrial methylated spirit to give 1-methyl-3-methylsulphonylmethyl-4-quinolone, m.p. 195°-197°.

reactant | 3-acetoxymethyl-1-methyl-4-quinolone | 0.8 g | C(C)(=O)OCC1=CN(C2=CC=CC=C2C1=O)C | C13H13NO3
reactant | sodium methanesulphinate | 0.53 g | CS(=O)[O-].[Na+]
reactant | sodium methanesulphinate | 0.14 g | CS(=O)[O-].[Na+]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | 1-methyl-3-methylsulphonylmethyl-4-quinolone | CN1C=C(C(C2=CC=CC=C12)=O)CS(=O)(=O)C | C12H13NO3S
